US06670372B2
(2R)-2-[(3-Aminoquinolin-4-yl)amino]butan-1-ol (416.0 g, 1 eq.) and triethylorthoformate (1.2 L, 4 eq.) were combined and slowly heated to 145° C. Ethanol was distilled off as it formed during the reaction. After ˜500 mL of ethanol had been distilled off, the reaction mixture was allowed to cool to 50° C. under a nitrogen atmosphere. Excess triethylorthoformate was removed under reduced pressure to provide crude (2R)-2-(1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol.

reactant | (2R)-2-[(3-Aminoquinolin-4-yl)amino]butan-1-ol | 416.0 g, 1 eq. | NC=1C=NC2=CC=CC=C2C1N[C@@H](CO)CC | C13H17N3O
reactant | triethylorthoformate | 1.2 L, 4 eq. | C(C)OC(OCC)OCC | C7H16O3
product | (2R)-2-(1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | N1(C=NC=2C=NC=3C=CC=CC3C21)[C@@H](CO)CC | C14H15N3O
